US07572820B2
1-({5-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile
Synthesized as described in Example 197B from 4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile and 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole: MS (ESI) m/z 500 (M+1).

reactant | 4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2NC(=NC21)CC)C#N | C10H8ClN3
reactant | 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CCl)(F)F | C11H5ClF6N2O
product | 1-({5-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-chloro-2-ethyl-1H-benzimidazole-5-carbonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CN1C(=NC2=C1C=CC(=C2Cl)C#N)CC)(F)F | C21H12ClF6N5O
